US06248739B1
N-(4-Chlorobenzyl)-6-[(3,3-dihydroxy-1-azetidinyl)methyl]-1-methyl-4-oxo-1,4-dihydro-3-quinolinecarboxamide
A solution of N-(4-chlorobenzyl)-6-[(3-hydroxy-1-azetidinyl)methyl]-1-methyl-4-oxo-1,4-dihydro-3-quinolinecarboxamide (0.10 gm) from Example No. 75 in dry DMSO (3 mL) containing triethylamine (0.35 mL) is treated with pyridine-sulfar trioxide complex (0.25 gm). The reaction mixture is stirred at room temperature for 2 hrs. The reaction mixture is diluted with ethyl acetate and washed with water (2×), brine, dried (Na2SO4) and concentrated under reduced pressure. The residue is purified by recrysrallization from acetonitrile to afford 0.06 gm of the title compound as a tan solid.

reactant | N-(4-chlorobenzyl)-6-[(3-hydroxy-1-azetidinyl)methyl]-1-methyl-4-oxo-1,4-dihydro-3-quinolinecarboxamide | 0.10 gm | ClC1=CC=C(CNC(=O)C2=CN(C3=CC=C(C=C3C2=O)CN2CC(C2)O)C)C=C1 | C22H22ClN3O3
reactant | triethylamine | 0.35 mL | C(C)N(CC)CC | C6H15N
reactant | DMSO | 3 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(4-Chlorobenzyl)-6-[(3,3-dihydroxy-1-azetidinyl)methyl]-1-methyl-4-oxo-1,4-dihydro-3-quinolinecarboxamide | 0.06 gm | ClC1=CC=C(CNC(=O)C2=CN(C3=CC=C(C=C3C2=O)CN2CC(C2)(O)O)C)C=C1 | C22H22ClN3O4
